US05594023
a) 1-(tert-Butoxycarbonyl)-4-(2-hydroxyethyl)piperidine
A solution of 87 g of di-tert-butyl dicarbonate in 100 ml of tert-butanol is added dropwise at RT to a solution of 51 g of 4-(2-hydroxyethyl)piperidine in 20 ml of tert-butanol and the mixture is stirred overnight at RT. It is concentrated under vacuum, the residue is extracted with AcOEt, the organic phase is washed with a buffer solution of pH 2 and dried over sodium sulfate and the solvent is evaporated off under vacuum to give 91.5 g of the expected product, which is used as such.

reactant | di-tert-butyl dicarbonate | 87 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 4-(2-hydroxyethyl)piperidine | 51 g | OCCC1CCNCC1 | C7H15NO
solvent | tert-butanol | 100 ml | C(C)(C)(C)O | C4H10O
solvent | tert-butanol | 20 ml | C(C)(C)(C)O | C4H10O
product | 1-(tert-Butoxycarbonyl)-4-(2-hydroxyethyl)piperidine | 91.5 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CCO | C12H23NO3
